US06914074B2
4-Nitro-4-methyl-2,3,5,6-tetrabromo-2,5-cyclohexadien-1-one (2.53 g, 4.95 mmol, purity: 82.6%) was added to 6-bromo-2-naphthol (1 g, 4.5 mmol) in 40 mL of dry ether. The reaction was allowed to react for 1.5 hr at room temperature. The solid was filtered to give 2,3,5,6-tetrabromo-4-methyl-phenol (144 mg). The solution was then evaporated under vacuum. The crude mixture was dissolved in ethyl acetate and washed with water. The organic layer was dried over anhydrous Na2SO4 and filtered and the solvent removed under vacuum. 2,3,5,6-tetrabromo-4-methyl-phenol (1.2 g) was separated by recrystallization of the crude product with ethyl acetate—hexane. The mother liquid was concentrated onto Florosil and purified on a silica column (15%-20% ethyl acetate-hexane) to yield 0.731 g (61%) of the title compound as a yellow solid: mp 111-113° C.; 1H NMR (DMDO-d6): δ 7.39 (1H, d, J=9.07 Hz), 7.54 (1H, d, J=9.05 Hz), 7.75 (1H, dd, J=9.05 Hz, J=1.70 Hz), 8.03 (1H, d, J=9.14 Hz), 8.29 (1H, d, J=1.84 Hz), 11.65 (1H, s); MS (ESI) m/z 266/268 (M−H)−; IR 1350 cm−1, 1490 cm−1.

reactant | 4-Nitro-4-methyl-2,3,5,6-tetrabromo-2,5-cyclohexadien-1-one | 4.95 mmol, 2.53 g | [N+](=O)([O-])C1(C(=C(C(C(=C1Br)Br)=O)Br)Br)C | C7H3Br4NO3
reactant | 6-bromo-2-naphthol | 4.5 mmol, 1 g | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
solvent | ether | 40 mL | CCOCC | C4H10O
product | 2,3,5,6-tetrabromo-4-methyl-phenol | 144 mg | BrC1=C(C(=C(C(=C1Br)C)Br)Br)O | C7H4Br4O
